US09284272B2
1-(4-(Hydroxyl)-5-methoxy-2-nitrophenyl)cyclobutanecarbonitrile (0.5 g, 2 mmol) in MeCN (10 mL) was treated with potassium carbonate (0.306 g, 2.2 mmol) and 1-chloro-3-iodopropane (0.425 mL, 4 mmol) and stirred at 80° C. for 3 hours. The reaction mixture was concentrated, extracted with dichloromethane and washed with brine. The organic layer was dried (MgSO4), filtered and concentrated. Purification by flash chromatography (silica gel, 5-24% EtOAc/hexane) afforded 0.63 g (96%) of 1-(4-(3-chloropropoxy)-5-methoxy-2-nitrophenyl)cyclobutanecarbonitrile. MS (ESI) m/z 325 (M+H)+.

reactant | 1-(4-(Hydroxyl)-5-methoxy-2-nitrophenyl)cyclobutanecarbonitrile | 2 mmol, 0.5 g | OC1=CC(=C(C=C1OC)C1(CCC1)C#N)[N+](=O)[O-] | C12H12N2O4
reactant | potassium carbonate | 2.2 mmol, 0.306 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-chloro-3-iodopropane | 4 mmol, 0.425 mL | ClCCCI | C3H6ClI
solvent | MeCN | 10 mL | CC#N | C2H3N
product | 1-(4-(3-chloropropoxy)-5-methoxy-2-nitrophenyl)cyclobutanecarbonitrile | 0.63 g, 96% | ClCCCOC1=CC(=C(C=C1OC)C1(CCC1)C#N)[N+](=O)[O-] | C15H17ClN2O4
